US04024249
The starting material is prepared as follows: A solution of 4.08 g of 2-(5-tert.-butyloxycarbonylaminomethyl-2-thienyl)-acetic acid in 200ml of methylene chloride containing 1.65 ml of 4-methyl-morpholine is cooled to -20° under exclusion of moisture and treated dropwise with 1.95 ml of chloroformic acid isobutyl ester. After 30 minutes a solution of 5.16 g of 7β-amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid and 7.20 ml N,O-bis-(trimethylsilyl)-acetic acid amide in 150 ml of methylene chloride is added, whereupon the reaction mixture is stirred during one hour at -20° and during four hours while the temperature is allowed to slowly rise to room temperature and is then evaporated under reduced pressure. The residue is dissolved in water with the addition of sodium hydrogen carbonate until the pH reaches 8. The solution is washed with ethyl acetate, the separated aqueous layer is acidified to pH 2 with aqueous phosphoric acid of 20% strength and is extracted with ethyl acetate. The organic extract is washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated under reduced pressure. One thus obtains the 7β-[2-(5-tert.-butyloxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid; thin layer chromatogram (silicagel): Rf = 0,40 (system: n-butanol/acetic acid/water45:45:10), ultraviolet absorption spectrum (ethanol): λmax 244 mμ (ε = 16900); infrared absorption spectrum (in mineral oil): characteristic bonds at 2,93 μ, 5,60 μ, 5,90 μ, and 6.55 μ.

reactant | 2-(5-tert.-butyloxycarbonylaminomethyl-2-thienyl)-acetic acid | 4.08 g | C(C)(C)(C)OC(=O)NCC1=CC=C(S1)CC(=O)O | C12H17NO4S
reactant | 4-methyl-morpholine | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid isobutyl ester | 1.95 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 7β-amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 5.16 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
solvent | methylene chloride | 200ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 7β-[2-(5-tert.-butyloxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(S1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C23H27N5O6S4
